* D:\MojePliki\Git\PV_DC_driver\simulations\PWM_NMOS_driver\pwm_nmos_driver.asc
V1 N002 0 250
R1 N002 N004 20
V2 N008 0 PULSE(0 3.3 0 1p 1p 50u 100u)
M1 N004 N007 0 0 PSMNR9030BL
V3 N001 0 12
Q1 N001 N003 N006 0 2N2222
Q2 0 N003 N006 0 2N2907
R2 N009 N008 470
R3 N001 N003 470
R4 N007 N006 20
D1 N007 N006 1N5817
D2 0 N004 1N5817
Q4 N003 N005 0 0 2N2222
R5 N001 N005 470
Q3 N005 N009 0 0 2N2222
R6 N007 0 10k
.model D D
.lib C:\Users\Pawel\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Pawel\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Pawel\Documents\LTspiceXVII\lib\cmp\standard.mos
;.dc V1 0 250 1
.tran 0 1m 0 0.1m
.backanno
.end
